US04077956
(b) 5-Hydrazino-1,3-dimethyl-4-nitro-1H-pyrazole
39 gms. of hydrazine are dissolved in 500 ml. of n-propanol and 105 gms. of 1,3-dimethyl-4-nitro-5-chloro-1H-pyrazole dissolved in propanol are added dropwise at 100°. The reaction mixture is then refluxed for 4 hours. On cooling, 5-hydrazino-1,3-dimethyl-4-nitro-1H-pyrazole crystallizes in the form of yellow needles. By concentrating the mother liquor an additional quantity of product is obtained. The combined crude is recrystallized from propanol, yield 98 gms. of yellow needles, m.p. 177°-179°.

reactant | hydrazine | NN | H4N2
reactant | 1,3-dimethyl-4-nitro-5-chloro-1H-pyrazole | CN1N=C(C(=C1Cl)[N+](=O)[O-])C | C5H6ClN3O2
solvent | propanol | C(CC)O | C3H8O
product | 5-Hydrazino-1,3-dimethyl-4-nitro-1H-pyrazole | N(N)C1=C(C(=NN1C)C)[N+](=O)[O-] | C5H9N5O2
